US06936608B2
a) 2-Fluoro-2′-methylthio-5-nitrobiphenyl
A mixture of 2-bromo-1-fluoro-4-nitrobenzene (5.89 g, 26.8 mmol), 2-(methylthio)benzeneboronic acid (5.62 g, 33.5 mmol) and potassium fluoride (5.13 g, 88.3 mmol) in THF (70 ml) was degassed with nitrogen for 30 min. This mixture was then treated with tris(dibenzylideneacetone)dipalladium(0) (496 mg, 0.541 mmol) followed by tri-tert-butylphosphine (5.35 ml of a 0.2 M solution in 1,4-dioxane, 1.07 mmol) and the reaction was degassed for a further 10 min. The resulting slurry was then heated at 50° C. for 16 h under nitrogen. After cooling, the reaction mixture was partitioned between ethyl acetate (300 ml) and water (300 ml). The organic layer was washed with saturated aqueous NaCl (200 ml), dried (Na2SO4), and evaporated. Purification by chromatography (silica gel, 5-10% EtOAc/isohexane) gave 6.95 g (99%) of the title compound as a pale yellow solid: 1H NMR (360 MHz, CDCl3) δ 2.42 (3H, s), 7.21-7.32 (3H, m), 7.37 (1H, d, J 7.4 Hz), 7.44 (1H, td, J 7.7, 1.6 Hz), 8.27-8.31 (2H, m).

reactant | 2-bromo-1-fluoro-4-nitrobenzene | 26.8 mmol, 5.89 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | 2-(methylthio)benzeneboronic acid | 33.5 mmol, 5.62 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | potassium fluoride | 88.3 mmol, 5.13 g | [F-].[K+]
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.541 mmol, 496 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Fluoro-2′-methylthio-5-nitrobiphenyl | 6.95 g, 99% | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)SC | C13H10FNO2S
